US08729105B2
Preparation of 6-(4-chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid (2-cyclopropyl-thiazol-4-ylmethyl)-amide
The title compound was synthesized in analogy to Example 41 using 6-(4-Chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid (example AW) and 2-cyclopropyl-4-thiazolemethanamine (CAN. 1083299-53-9) as starting materials, LC-MS (UV peak area/ESI) 95.5%, 440.2 (M+H)+.

reactant | 6-(4-Chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid | ClC1=CC=C(C=C1)C1=C(C=CC(=N1)C(=O)O)OCC1CC1 | C16H14ClNO3
reactant | 2-cyclopropyl-4-thiazolemethanamine | C1(CC1)C=1SC=C(N1)CN | C7H10N2S
product | 6-(4-chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid (2-cyclopropyl-thiazol-4-ylmethyl)-amide | C1(CC1)C=1SC=C(N1)CNC(=O)C1=NC(=C(C=C1)OCC1CC1)C1=CC=C(C=C1)Cl | C23H22ClN3O2S
